US04562275
Preparation of thymidylato trans(-)-1,2-diaminocyclohexane platinum(II)
A mixture of dichloro(1,2-diaminocyclohexane) platinum(II) (760 mg) and 1.08 g of disilver thymidine monophosphate was suspended in 30 ml. of water. The reaction mixture was stirred in the dark at room temperature for 36 hours and then evaporated to dryness. The title product obtained (698 mg) was a white material that is water-soluble but alcohol-insoluble. When tested in the TLC systems indicated below, the following Rf values were obtained:

reactant | dichloro(1,2-diaminocyclohexane) platinum(II) | 760 mg | [Pt+2].ClC1(C(CCCC1)(N)Cl)N
catalyst | disilver thymidine monophosphate | 1.08 g | P(=O)([O-])([O-])OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O.[Ag+].[Ag+]
solvent | water | O | H2O
product | trans(-)-1,2-diaminocyclohexane platinum(II) | [Pt+2].N[C@H]1[C@@H](CCCC1)N | InChI=1S/C6H14N2.Pt/c7-5-3-1-2-4-6(5)8;/h5-6H,1-4,7-8H2;/q;+2/t5-,6-;/m1./s1
